US04517187
To a stirred solution of 1.0 M borane in tetrahydrofuran (55 ml) maintained under nitrogen at 0° C. was added cis-1,3,4,6,7,11b-hexahydro-7-phenyl-2-propionyl-2H-pyrazino[ 2,1-a]isoquinoline (5.3 g, 0.016 m) and the mixture heated to reflux for 3 hours, then cooled in an ice bath and carefully treated with 10% HCl (100 ml). This mixture was heated to reflux for 1 hour, then cooled, and the tetrahydrofuran removed on an aspirator. The remaining aqueous solution was basified to pH 11 with 50% NaOH and extracted with chloroform. The extracts were dried over MgSO4 and evaporated to a solid residue (6.0 g). This was dissolved in methanol (50 ml) and isopropanol (50 ml) and acidified with HCl gas. Upon cooling and standing, a white solid crystallized, which was collected by filtration and vacuum dried at 80° for 24 hours to give 4.6 g cis-1,3,4,6,7,11b-hexahydro-7-phenyl-2-propyl-2H-pyrazino[2,1-a]isoquinoline dihydrochloride, m.p. 273°-274°.

reactant | borane | 1.0 M | B | BH3
reactant | cis-1,3,4,6,7,11b-hexahydro-7-phenyl-2-propionyl-2H-pyrazino[ 2,1-a]isoquinoline | 5.3 g | C1(=CC=CC=C1)[C@@H]1CN2[C@H](C3=CC=CC=C13)CN(CC2)C(CC)=O | C21H24N2O
reactant | HCl | 100 ml | Cl | ClH
solvent | tetrahydrofuran | 55 ml | O1CCCC1 | C4H8O
product | cis-1,3,4,6,7,11b-hexahydro-7-phenyl-2-propyl-2H-pyrazino[2,1-a]isoquinoline dihydrochloride | 4.6 g | Cl.Cl.C1(=CC=CC=C1)[C@@H]1CN2[C@H](C3=CC=CC=C13)CN(CC2)CCC | InChI=1S/C21H26N2.2ClH/c1-2-12-22-13-14-23-15-20(17-8-4-3-5-9-17)18-10-6-7-11-19(18)21(23)16-22;;/h3-11,20-21H,2,12-16H2,1H3;2*1H/t20-,21-;;/m0../s1
